US06284894B1
To a solution of t-butylnitrite (535 μl, 4.5 mmol) and allyl bromide (3.9 ml, 45.0 mmol) in CH3CN (3 ml), 2-bromo-5-nitroaniline (651 mg, 3.0 mmol) was added during 20 minutes, while maintaining the temperature of the reaction mixture at 35-40° C. At the end of the addition of the aniline, extra t-butylnitrite (180 μl, 1.5 mmol) was added to the reaction mixture which then was stirred at 23° C. for one hour. The volatile material in the reaction mixture was removed at reduced pressure. Column chromatography (heptane-ethyl acetate 49:1) gave 568 mg (78%) allyl-2-bromo-5-nitrobenzene as a light yellow oil containing 7% of 3,4-dibromo-nitrobenzene, which crystallized upon standing overnight in the refrigerator. This corresponds to 72% yield of allyl-2-bromo-5-nitrobenzene. The allyl-2-bromo-5-nitrobenzene could be purified by crystallization from pentane. 1H NMR (CDCl3, 400 MHz) δ 8.10, (d, 1H, J=2.7 Hz), 7.95, (dd, 1H, J=8.7, 2.7 Hz), 7.74, (d, 1H, J=8.7 Hz), 6.03-5.92, (m, 1H), 5.26-5.13, (m, 2H), 3.60, (m, 2H, J=6.5 Hz); 13C NMR (CDCl3, 100 MHz) δ 147.7, 142.0, 134.1, 134.1, 132.3, 125.3, 122.9, 118.8, 40.5; Anal HRMS Calcd. for C9H8BrNO2 (M): 240.9738. Found: 240.9739.

reactant | t-butylnitrite | 4.5 mmol, 535 μl | C(C)(C)(C)ON=O | C4H9NO2
reactant | allyl bromide | 45.0 mmol, 3.9 ml | C(C=C)Br | C3H5Br
reactant | 2-bromo-5-nitroaniline | 3.0 mmol, 651 mg | BrC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | t-butylnitrite | 1.5 mmol, 180 μl | C(C)(C)(C)ON=O | C4H9NO2
solvent | CH3CN | 3 ml | CC#N | C2H3N
product | allyl-2-bromo-5-nitrobenzene | 568 mg, 78% | C(C=C)C1=C(C=CC(=C1)[N+](=O)[O-])Br | C9H8BrNO2
